US04529806
EMBODIMENT 1 - Ethyl 2-oxo-1-(3-oxobutyl)cyclopentancarboxylate
A mixture of 102.0 g of ethyl 2-oxocyclopentanecarboxylate, 300 ml of benzene, 67 ml of methyl vinyl ketone and 20 ml of triethylamine was allowed to stir magnetically at reflux for 2.5 hours. Concentration followed by Claisen distillation gave 128 g of product.

reactant | ethyl 2-oxocyclopentanecarboxylate | 102.0 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | methyl vinyl ketone | 67 ml | C(=C)C(=O)C | C4H6O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 1 - Ethyl 2-oxo-1-(3-oxobutyl)cyclopentancarboxylate | 128 g | O=C1C(CCC1)(C(=O)OCC)CCC(C)=O | C12H18O4
